US07332516B2
To a suspension of calcium 2-(3-phenoxy-phenyl)-propionate hydrate (5.00 g, 9.57 mmol) in methanol (150 mL) was added conc. H2SO4 (1.1 mL) and the gelatinous solution heated to reflux for 4 hrs. After cooling, the solution was filtered and evaporated to dryness, the residue dissolved in EtOAc, washed with satd. aq. NaHCO3 soln., dried (MgSO4) and evaporated to yield methyl-2-(3-phenoxy-phenyl)-propionate as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 7.34 (2H, m), 7.26 (1H, m), 7.11 (1H, m), 6.99-7.02 (4H, m), 6.87 (1H, m), 3.70 (1H, q, J=7.2 Hz), 3.67 (3H, s), 1.58 (3H, d, J=7.2 Hz)

reactant | calcium 2-(3-phenoxy-phenyl)-propionate hydrate | 9.57 mmol, 5.00 g | O.O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)[O-])C.[Ca+2].O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)[O-])C
reactant | H2SO4 | 1.1 mL | OS(=O)(=O)O | H2O4S
solvent | methanol | 150 mL | CO | CH4O
product | methyl-2-(3-phenoxy-phenyl)-propionate | COC(C(C)C1=CC(=CC=C1)OC1=CC=CC=C1)=O | C16H16O3
